US04447425
Aqueous sodium hydroxide solution (50 ml; 4N) was added to a solution of 3-methyl-5α-androst-2-en-17β-ol acetate (50 g) in methanol (400 ml) and the solution was heated under reflux for 1 h. The solution was cooled and water was added to precipitate the product (43 g). Recrystallisation of a sample from ether gave pure 3-methyl-5α-androst-2-en-17β-ol, m.p. 128°-130°; [α]D +68° (c 0.31 in EtOH).

reactant | sodium hydroxide | 4N, 50 ml | [OH-].[Na+]
reactant | 3-methyl-5α-androst-2-en-17β-ol acetate | 50 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(=CC[C@]3(C)[C@H]1CC2)C | C22H34O2
reactant | water | O | H2O
solvent | methanol | 400 ml | CO | CH4O
product | 3-methyl-5α-androst-2-en-17β-ol | CC=1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O | C20H32O
